US07618961B2
Ethyl (2-{[(2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2-methylbenzenesulfonyl chloride according to METHOD A, giving 0.22 g (32%) of a pink powder: 1H NMR (CDCl3) δ: 1.3 (3H, t), 2.5 (3H, s), 3.9 (2H, s), 4.2 (2H, q), 6.4 (1H, s), 7.8-7.2 (3H, m), 8.1 (1H, t).

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2-methylbenzenesulfonyl chloride | CC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
product | Ethyl (2-{[(2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | CC1=C(C=CC=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H16N2O4S2
